US08865739B2
To a solution of (R)-1-phenylethanol (6.0 ml, 50 mmol) in dry tetrahydrofuran (75 ml) at room temperature was added 4-(N,N-dimethylamino)pyridine (610 mg, 5.0 mmol) followed by dropwise addition of 4-methyleneoxetan-2-one (3.83 ml, 50 mmol). The reaction was stirred for 12 hours at room temperature, then the solvent removed under reduced pressure. The residue was dissolved in ethyl acetate, poured into a separatory funnel, and washed with 1M aqueous hydrochloric acid, water, saturated aqueous sodium bicarbonate, then brine. The organic phase was separated and the solvent removed under rescued pressure to provide (R)-1-phenylethyl 3-oxobutanoate as a light reddish oil (10.3 g, 100%). 1H NMR (CDCl3, 400 MHz) δ 7.4-7.2 (m, 5H); 5.94 (q, 1H, J=6.6 Hz); 3.45 (s, 2H); 2.22 (s, 3H); 1.56 (d, 3H, J=6.6 Hz).

reactant | (R)-1-phenylethanol | 50 mmol, 6.0 ml | C1(=CC=CC=C1)[C@@H](C)O | C8H10O
reactant | 4-methyleneoxetan-2-one | 50 mmol, 3.83 ml | C=C1CC(O1)=O | C4H4O2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
catalyst | 4-(N,N-dimethylamino)pyridine | 5.0 mmol, 610 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | (R)-1-phenylethyl 3-oxobutanoate | 10.3 g, 100% | O=C(CC(=O)O[C@H](C)C1=CC=CC=C1)C | C12H14O3
